US07550481B2
Prepared according to Scheme 1 in an analogous manner as intermediate III with the one additional step; step B involving Michael addition using dimethyl amine (vida infra). Step A: To a solution of N-Boc-phenylalanine-Weinreb amide (10.0 g, 32.4 mmol) in 200 mL THF cooled to −40° C. was added vinyl magnesium bromide (97.0 mL, 97.0 mmol, 1.0 M in THF) dropwise. After stirring at −40 to −20° C. for 5 h. The reaction mixture was poured onto cold 3N HCl (600 mL), extracted with EtOAc (3×200 mL), the organic layers combined and washed with brine, dried over sodium sulfate, and concentrated in vacuo to afford crude tert-butyl (1S)-1-benzyl-2-oxobut-3-enylcarbamate which was used as is in the following Michael addition reaction. Step B: In a flask containing tert-butyl (1S)-1-benzyl-2-oxobut-3-enylcarbamate (0.75 g, 2.72 mmol) in MeOH (10 mL) was added dimethyl amine (2.73 mL, 2.0 M MeOH, 5.45 mmol). The mixture was stirred at rt for 1 h. The mixture was concentrated to dryness to give tert-butyl (1S)-1-benzyl-4-(dimethylamino)-2-oxobutylcarbamate which was used in the next reaction without further purification. Step C: In a 50 mL flask containing ketone (825 mg, 2.57 mmol) from step B in 25 mL of EtOH at room temperature was added NaBH4 (92 mg, 2.57 mmol) in two portions. The mixture was stirred overnight and lmL of H2O added. The reaction was concentrated to dryness and partitioned between EtOAc and H2O. The layers were separated and the aqueous layer extracted once again. The combined organic layers were washed with brine, dried over Na4SO4 and concentrated to dryness to give crude tert-butyl (1S,2RS)-1-benzyl-4-(dimethylamino)-2-hydroxybutylcarbamate. 1H NMR indicated a mixture of alpha and beta diastereomers. The crude material was deprotected in step D below without further purification. Step D: A scintillation vial containing tert-butyl (1S,2RS)-1-benzyl-4-(dimethylamino)-2-hydroxybutylcarbamate (250 mg, 0.78 mmol) in EtOAc was cooled to 0° C. HCl (g) was gently bubbled into the mixture for ca. 1 min. The vial was sealed with a cap and allowed to warm to rt. After 30 min. the mixture was concentrated with N2 and then concentrated further via rotorary evaporation to give an off-white solid intermediate XII, N-(2S,3RS)-2-amino-5-(dimethylamino)-1-phenylpentan-3-ol as hydrochloride salt: (2:1 ratio of diastereomers, major isomer reported) 1H NMR (400 MHz, MeOD) δ 7.28 (m, 5H), 3.91 (dt, J=6.9 Hz, 3.6 Hz, 1H), 3.61 (m, 1H), 3.35 (m, 2H) 3.22 (m, 2H), 2.9-3.0 (overlapping m, 2H), 2.89 (s, 6H); ES MS (M+H)=223.3.

reactant | tert-butyl (1S)-1-benzyl-2-oxobut-3-enylcarbamate | 2.72 mmol, 0.75 g | C(C1=CC=CC=C1)[C@@H](C(C=C)=O)NC(OC(C)(C)C)=O | C16H21NO3
reactant | dimethyl amine | 5.45 mmol, 2.0 M, 2.73 mL | CNC | C2H7N
solvent | MeOH | 10 mL | CO | CH4O
product | tert-butyl (1S)-1-benzyl-4-(dimethylamino)-2-oxobutylcarbamate | C(C1=CC=CC=C1)[C@@H](C(CCN(C)C)=O)NC(OC(C)(C)C)=O | C18H28N2O3
